US07750003B2
N-[2-[[2-[4-(Dimethylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfanyl]ethyl]acetamide
N-Acetylcysteamine (0.064 mL) was dissolved in acetonitrile (5 mL). DBU (0.141 mL) was then added to the solution and was allowed to stir at RT for 5 minutes. 1,1-Dimethyl-3-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]urea (154 mg) was suspended in acetonitrile (5 mL) and added to the thiol. The reaction was left to stir at RT of 1 hour then concentrated in vacuo to give the desired material.

reactant | N-Acetylcysteamine | 0.064 mL | C(C)(=O)NCCS | C4H9NOS
reactant | DBU | 0.141 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1,1-Dimethyl-3-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]urea | 154 mg | CN(C(=O)NC1=CC=C(C=C1)C1=NC(=CC(=N1)N1[C@H](COCC1)C)COS(=O)(=O)C)C | C20H27N5O5S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-[2-[[2-[4-(Dimethylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfanyl]ethyl]acetamide | CN(C(=O)NC1=CC=C(C=C1)C1=NC(=CC(=N1)CSCCNC(C)=O)N1[C@H](COCC1)C)C | C23H32N6O3S
